US05162322
5-[3-[4-(2-Methoxyphenyl)-1-piperazinyl]propyl]-3-phenyl-2-oxazolidinone hydrochloride hydrate (1:2).
Following the procedure of Example 5, a mixture of 5-(3-chloropropyl)-3-phenyl-2-oxazolidinone (4.5 g, 0.0188 mol), 1-(2-methoxyphenyl)-piperazine (3.62 g, 0.0188 mol), potassium carbonate (7.81 g, 0.0565 mol), and potassium iodide (1.0 g) in n-butanol (200 mL) gave an oil. The oil was acidified with warm ethanolic hydrogen chloride, filtered warm, and cooled to room temperature. Diethyl ether was added and the resulting solid was collected by filtration and dried under high vacuum at 50° C. to give 4.65 g (53% yield), mp 203°-211° C.

reactant | 5-(3-chloropropyl)-3-phenyl-2-oxazolidinone | 0.0188 mol, 4.5 g | ClCCCC1CN(C(O1)=O)C1=CC=CC=C1 | C12H14ClNO2
reactant | 1-(2-methoxyphenyl)-piperazine | 0.0188 mol, 3.62 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | potassium carbonate | 0.0565 mol, 7.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.0 g | [I-].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | n-butanol | 200 mL | C(CCC)O | C4H10O
product | 5-[3-[4-(2-Methoxyphenyl)-1-piperazinyl]propyl]-3-phenyl-2-oxazolidinone hydrochloride hydrate | 53% yield | O.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCC1CN(C(O1)=O)C1=CC=CC=C1 | InChI=1S/C23H29N3O3.ClH.H2O/c1-28-22-12-6-5-11-21(22)25-16-14-24(15-17-25)13-7-10-20-18-26(23(27)29-20)19-8-3-2-4-9-19;;/h2-6,8-9,11-12,20H,7,10,13-18H2,1H3;1H;1H2
